2121-11-28 08:57:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: shock, respiratory failure, acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2121-11-27**] 06:30 PM
 PICC LINE - START [**2121-11-27**] 06:30 PM
 EKG - At [**2121-11-27**] 07:45 PM
 EKG - At [**2121-11-27**] 11:10 PM
   continuous during adenosine admin
 EKG - At [**2121-11-28**] 03:08 AM
 SPUTUM CULTURE - At [**2121-11-28**] 05:03 AM
 URINE CULTURE - At [**2121-11-28**] 05:04 AM
 ARTERIAL LINE - START [**2121-11-28**] 05:30 AM
 FEVER - 101.3
F - [**2121-11-27**] 06:52 PM
   Admitted to MICU; adenosine, pressors, CVL.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Acyclovir - [**2121-11-27**] 11:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-11-28**] 04:30 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Adenosine - [**2121-11-27**] 11:15 PM
   Metoprolol - [**2121-11-27**] 11:40 PM
   Other medications:
   colace, azithro, vanco, dig, statin, asa, PPI, vit D, paroxetine, SQI,
   MDIs, vasopressin, norepi, bolus fent/midaz
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-11-28**] 08:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.1
C (98.7
   HR: 70 (69 - 148) bpm
   BP: 112/54(74) {94/48(64) - 118/60(80)} mmHg
   RR: 20 (16 - 33) insp/min
   SpO2: 97%
   Heart rhythm: JR (Junctional Rhythm)
             Total In:
                                                                  6,265 mL
                                                                  4,771 mL
   PO:
             TF:
   IVF:
                                                                  2,265 mL
                                                                  4,436 mL
   Blood products:
   Total out:
                                                                    405 mL
                                                                    148 mL
   Urine:
                                                                    405 mL
                                                                    148 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,860 mL
                                                                  4,624 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 315 (315 - 440) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 145
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.42/45/131/28/4
   Ve: 9.6 L/min
   PaO2 / FiO2: 328
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, Diminished:
   right base)
   Abdominal: Soft, Non-tender, g tube
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   7.6 g/dL
   367 K/uL
   108 mg/dL
   2.5 mg/dL
   28 mEq/L
   4.2 mEq/L
   58 mg/dL
   110 mEq/L
   145 mEq/L
   23.6 %
   15.2 K/uL
        [image002.jpg]
                            [**2121-11-27**]  08:40 PM
                            [**2121-11-28**]  03:51 AM
                            [**2121-11-28**]  05:48 AM
   WBC
   15.2
   Hct
   23.6
   Plt
   367
   Cr
   2.4
   2.5
   TropT
   0.14
   0.14
   TCO2
   30
   Glucose
   102
   108
   Other labs: PT / PTT / INR:17.0/29.5/1.5, CK / CKMB /
   Troponin-T:23/1/0.14, Lactic Acid:1.0 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:2.0 mg/dL
   Imaging: reviewed
   Assessment and Plan
 TACHYCARDIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, CHRONIC
   73 y/o man with shock and acute renal failure in the setting of chronic
   respiratory failure.  We will plan:
          Presumptively septic.  Most likely source is lung or urine
   (or both).
          Cover HCAP/VAP as well as UTI.  Change Zosyn to cefepime
   given prior micro.
          Influenza DFA (seems low [**Last Name (LF) **], [**First Name3 (LF) **] no empiric rx)
          Remove PICC and culture.  Remove fem line (new)
          Echo today, and consult cardiology given abnormal rhythm,
   positive trop, abnormal EKG, etc.
          Carotid ultrasound to eval ED ultrasound findings
          No pharmacologic DVT proph given HIT and renal failure
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2121-11-27**] 06:30 PM
   18 Gauge - [**2121-11-27**] 06:30 PM
   Arterial Line - [**2121-11-28**] 05:30 AM
   Multi Lumen - [**2121-11-28**] 08:15 AM
   Prophylaxis:
   DVT: Boots(HIT(+).  ARF precludes fondaparinux for now.)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2121-11-29 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2121-11-28**] 08:15 AM
 NASAL SWAB - At [**2121-11-28**] 10:00 AM
 STOOL CULTURE - At [**2121-11-28**] 10:00 AM
 TRANSTHORACIC ECHO - At [**2121-11-28**] 11:00 AM
 MULTI LUMEN - STOP [**2121-11-28**] 12:00 PM
 PICC LINE - STOP [**2121-11-28**] 01:33 PM
 EKG - At [**2121-11-28**] 02:00 PM
 ULTRASOUND - At [**2121-11-28**] 02:59 PM
 EKG - At [**2121-11-28**] 03:30 PM
 ULTRASOUND - At [**2121-11-28**] 04:00 PM
   - Surgery: Gtube working fine, they are signing off
   - Cards: Last night he was in Atach with 2:1 block. The triplet rhythm
   was AFib which he has been in since his operation.--> NEEDS COUMADIN,
   once stabilized. Restart and uptitrate Bblocker once no longer pressor
   dependent. Check EKG to confirm sinus rhythm (done and in sinus). If
   sinus, start Amiodarone 400mg PO/NG tid x7days, then 200mg PO/NG daily.
   Stop Digoxin once the 200mg daily Amio is started.
   - EKG with regular QRS's but hard to see P waves. Turned up gain to 20
   and P waves easier to see, and was IN SINUS
   - Carotid u/s
   - RUQ u/s
   - Heme recs: Would start argatroban at a lower rate of 0.5 mcg/kg/min,
   and titrate to a PTT of 60-80.
   -Check PTT 2 hours after initiation of Argatroban, with the
   following protocol:
     If PTT < 40 sec increase by 0.5 mcg/kg/min
     If PTT 40
 59 sec increase by 0.25 mcg/kg/min
     If PTT 60
 80 sec No change
     If PTT 80
 100 sec HOLD for 1 hour and decrease by 0.25
   mcg/kg/min
     If PTT > 100 sec HOLD for 1 hour and decrease by 0.5 mcg/kg/min
   -Would start Coumadin when PTT is in the desired range at 2.5 mg
   PO per day.
   -Would avoid ALL heparin products, including flushes and SC
   injections.
   - Levo off at 10pm, pressures looking good. Vaso stopped 11p.
   A month ago long discussion about failing to wean.  A lot of gut
   dismotility.  Significant renal insufficiency from lasix in attempts to
   pull off fluids.  He has chronic pleural effusions and initially was
   tolerating 12 hour trach mask trials and has been regressing since
   then.  Belly issues started in early [**Month (only) **].  Had a paracentesis.
   One doctor thought he might have a malignant process causing the
   ascites.  Two weeks ago he got a KUB to see what was happening.  Having
   constant residuals and this caused concern for misplacement.  Replaced
   g-tube and reimaged (equivocal).  Three different conversations with
   radiologists who thought it was okay.  He was getting the gastroview
   back 3-4 days later.  Put in low intermittent suction and took this
   out.  Decompressed the stomach and made it softer.  Intermittent fevers
   throughout.  Treated for ESBL klebsiella in the blood and removed PICC
   line mid-[**Month (only) 1148**] and was treated with ten day course with dorbax and
   placed a new one.  Gut seemed to be getting worse.  Not even tolerating
   20 cc hour and he was started on TPN about a week ago.  Discrepency
   between PA and attending regarding medications.  Attending thought it
   was in place and restarted everything.  Then it was stopped on Monday.
   He had been on amiodarone on admission and this was stopped secondary
   to lung/liver issues.  Also stopped his coumadin and aspirin because he
   had guaiac positive stools and he was having persistent transfusion
   requirements for Hct < 23.  Now the bleeding has been stopped.  Now
   he's just on the IV digoxin and lopressor.  [**Last Name 2429**] problem with [**Name2 (NI) 494**]
   weaning was the pleural effusions.  Backed off on the lasix.  Abdominal
   girth started getting bigger.  Couldn't use lasix because of the
   kidneys.  The patient has said in [**Month (only) 1148**] that he would want to proceed
   until [**Month (only) 25**].  Daughter came in on the 9th and PA told her about the
   abdominal process.  We can leave you like this and do nothing or we can
   have you transferred to [**Hospital1 19**] rather than staying in the same place.
   He wasn't clear what he wanted to do at that time.  Patient agreed to
   transfer back to [**Hospital1 19**].
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Acyclovir - [**2121-11-27**] 11:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-11-28**] 04:30 AM
   Cefipime - [**2121-11-28**] 11:30 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2121-11-28**] 08:00 AM
   Fentanyl - [**2121-11-28**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-11-29**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 91 (66 - 91) bpm
   BP: 134/77(97) {101/47(64) - 136/77(97)} mmHg
   RR: 22 (14 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 24 (19 - 28)mmHg
   Total In:
                                                                  5,719 mL
                                                                    454 mL
   PO:
   TF:
                                                                     86 mL
                                                                    182 mL
   IVF:
                                                                  4,898 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,157 mL
                                                                    156 mL
   Urine:
                                                                    557 mL
                                                                    156 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,562 mL
                                                                    299 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 428 (341 - 444) mL
   PS : 18 cmH2O
   RR (Set): 14
   RR (Spontaneous): 37
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 139
   RSBI Deferred: RR >35
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/43/91.[**Numeric Identifier 143**]/25/0
   Ve: 12.9 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Awake, alert, no distress. Trying to speak but trached. Lungs with
   coarse expiratory sounds. Heart benign. Abdomen large and protuberant,
   no TTP. G tube in place.
   Labs / Radiology
   403 K/uL
   7.5 g/dL
   88 mg/dL
   2.6 mg/dL   rising
   25 mEq/L
   4.0 mEq/L
   59 mg/dL
   110 mEq/L
   145 mEq/L    <--146
   24.2 %
   13.6 K/uL
        [image002.jpg]
                            [**2121-11-27**]  08:40 PM
                            [**2121-11-28**]  03:51 AM
                            [**2121-11-28**]  05:48 AM
                            [**2121-11-28**]  02:52 PM
                            [**2121-11-28**]  06:03 PM
                            [**2121-11-28**]  06:18 PM
                            [**2121-11-29**]  05:51 AM
   WBC
   15.2
   13.6 trending down
   Hct
   23.6
   25.1
   24.2 stable
   Plt
   367
   403 stable
   Cr
   2.4
   2.5
   2.5
   2.6
   TropT
   0.14
   0.14
   0.15
   0.16
   TCO2
   30
   26
   Glucose
   102
   108
   112
   88
   Other labs: PT / PTT / INR:16.8/29.2/1.5   up from 1.3 yesterday , CK /
   CKMB / Troponin-T:23/2/0.16   <--rising , Differential-Neuts:82.2 %,
   Lymph:7.8 %, Mono:5.4 %, Eos:4.2 %   increased , Lactic Acid:1.0
   mmol/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: vanc level 14.1
   dig 0.7 x2 (low)
   Imaging:
   Abd u/s pending
 final read pending
   Carotid u/s pending
 wet read showing <40% stenosis bilaterally
   CXR yesterday
   Mild cardiomegaly. Moderate-to-large right and small-to-moderate left
   pleural
   effusion have decreased. Pulmonary edema has improved. Right perihilar
   opacity and left lower lobe atelectasis have improved.
   Sternal wires are aligned. Tracheostomy tube is in standard position.
   Right PICC is in place. Left subclavian catheter tip is in the upper
   SVC. There is no pneumothorax.
   CXR this am pending
   Microbiology: [**11-28**] Cath tip pending PICC
   [**11-28**] Cdiff negative
   Resp viral screen negative, Cx pending
   BCx x2 pending
   UCx x2 pending
   Assessment and Plan
 DEPRESSION
 TACHYCARDIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, CHRONIC
   A 73 year old gentleman with signs of urosepsis in supraventricular
   tachycardia presenting for g-tube evaluation.  His g-tube appears to be
   properly functioning.
   1. Arrhytmia: Per cards, pt was in Atach, Afib on admission, was given
   Adenosine and BBlocker. Now in sinus by last EKG's [**2121-11-28**]. Have
   consulted Cards who rec an Amiodarone load then maintenance, which the
   pt was on in the past and stopped due to liver/lung issues.
   - Dig level low will need to be increased, currently at 0.125mg every
   other day
 would ask Cards about this
   - Will NOT start Amiodarone load then maintenance as outlined by cards
   because pt was on it before and had complications with liver/lung
   will touch base with Cards about this and let them know
   - Will need to start discussing anticoagulation for h/o AFib, was
   previously on, but stopped due to guaic positive stools and persistent
   transfusion requirements
 will NOT anticoagulate this pt for those
   exact reasons
   - Replete electrolytes
   - Now currently off Levo and ADH
   - If heart rate increases, would control with Bblockade per Cards recs,
   as bp can tolerate
   - F/u with cards this morning
   - Repeat EKG this pm and would try using 20 on the gain to really see
   the P waves
   2. Hypotension: The patient was hypotensive with poor urine output on
   admission, and thought to be distributive shock from urosepsis or PNA
   and started on ABx. Was started on pressors which have now been weaned
   and appears hemodynamically fairly stable with some 80-90's bps that
   quickly resolve. Has not been tachycardic.
   - Watch hemodynamics through the day
   - Control tachycardia as above with BBlockade, as tolerated by bp
   - Vanc/Cefipime/Cipro for GU and Pulm infectious sources
   - NS bolus to improve urine output prn
   3. H/o HIT with need to be anticoagulated
   - F/u with heme, they have outlined their recs for starting Argatroban
   to Coumadin
   - We will touch base with heme as well and let them know we will NOT be
   starting the anticoagulation due to h/o slow chronic bleed requiring
   frequent transfusions.
   3. Trach/[**Month/Day/Year 494**] dependence: Unclear history of trach collar vs.
   dependence on [**Month/Day/Year **].  Metabolic alkalosis and current alkalemia from
   over ventillation. RSBI this am 139.
   - Currently on CPAP 18/8, 40%
   - Continue with SBT's which apparently pt had been tolerating well a
   while ago, but then began regressing
   4. PNA: Health care vs. Ventilator associated PNA.
   - Vanc/Cefipime/Cipro
   - Sputum culture
   5. Urosepsis:
   - F/U Urine culture
   - ABx as above
   6. Acute on Chronic Renal failure: Likely pre-renal, not receiving as
   much nutrition at OSH. ATN vs. Pre-renal. FeNa yesterday was 0.5
   - Cr is chronically elevated, but will continue to trend.
   - Hold off on fluids for now
   - renally dose meds
   7. Hypernatremia: Hypovolemic hypernatremia on admission. Improved this
   am but need to watch
   - Free water boluses via G tube 100mL q6
   - Meaure pm Na
   8. S/P CABG: Elevated troponins likely rate/renal function related.
   - Statin, ASA
   9. Depression:
   - Continue Paxil
   10. "Funny Carotids" No signs of stroke, neuro exam WNL.
   - F/u carotid dopplers, wet read normal
   11. DM: ISS, no standing for now
   12. G-tube malfunction: functioning per surgery, Radiology and nursing.
   Surgery has signed off.
   FEN: IVF as above, replete electrolytes, tube feeds
   Prophylaxis: Boots, PPI, Bowel reg
   Access: L PIV. L subclavian triple lumen. R AC PICC and R femoral have
   been pulled
   Code:  DNR, already tracheally intubated.
   Communication: Patient, daughter [**Name (NI) **]: [**Telephone/Fax (1) 11465**] (home); cell:
   [**Telephone/Fax (1) 11466**]
   Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-11-28**] 05:15 PM 25 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-11-27**] 06:30 PM
   Arterial Line - [**2121-11-28**] 05:30 AM
   Multi Lumen - [**2121-11-28**] 08:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Events:
   Abd U/S with liver c/w cirrhosis, with free fluid in abdomen.
   Echo with dilated HK RV and pulm HTN.
   Pressors weaned off.
   RSBI 139.
   VS: afebrile; I/O 4+L positive.
   On PSV 18, TV 300s, RR 30s.
   On exam: obese, in NAD, mouthing words
I want coffee
   Labs notable for WBC down to 13.6, Hct stable.  Cr 2.6, from 2.4.  INR
   1.4.  Trop 0.16.
   Meds include Vanc, Dig, Zocor, ASA, Cipro, cefepime.
   Persistent ventilatory failure; admitted with shock (presumed septic),
   SVT, ascites.
   Currently off pressors, on broad spectrum antibiotics covering for pna
   vs urine vs other source.  Awaiting final cultures.
   # New finding of cirrhosis
 will call hep, perform paracentesis.
   Recently on amio, will hold Zocor.
   Evaluation of abd findings with hep consult, paracentesis.
   # Persistent resp failure
 not completely clear why; though likely
   volume overload and effusions contributing.  Could also have component
   of weakness, infection; echo findings new versus prior (borderline
   function of RV), unable to anticoagulate d/t persistent GI bleed.
   # Agitation / delirium: consider starting seroquel.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2121-11-29**] 03:10 PM ------

2121-11-30 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: SVT/Pseudomonas pneumonia/UTI/Liver failure
   24 Hour Events:
 PARACENTESIS - At [**2121-11-29**] 03:22 PM
   9.2 liters removed; cultures are NTD
   -Failed SBT this morning due to subjective distress about being off the
   ventilator
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Acyclovir - [**2121-11-27**] 11:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-11-28**] 04:30 AM
   Vancomycin - [**2121-11-29**] 08:00 AM
   Cefipime - [**2121-11-29**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2121-11-30**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.3
   HR: 101 (84 - 101) bpm
   BP: 137/60(84) {78/43(62) - 137/71(84)} mmHg
   RR: 30 (12 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
    CVP: 18 (15 - 31)mmHg
   Total In:
                                                                  2,385 mL
                                                                    647 mL
   PO:
   TF:
                                                                    755 mL
                                                                    247 mL
   IVF:
                                                                    450 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  9,841 mL
                                                                    185 mL
   Urine:
                                                                    641 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
                                                                  9,200 mL
   Balance:
                                                                 -7,456 mL
                                                                    462 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 574 (384 - 616) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: 7.42/41/124/26/2
   Ve: 10 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, decubitus ulcer with small drainage
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   354 K/uL
   7.2 g/dL
   118 mg/dL
   2.8 mg/dL
   26 mEq/L
   3.7 mEq/L
   58 mg/dL
   112 mEq/L
   147 mEq/L
   23.9 %
   8.3 K/uL
        [image002.jpg]
                            [**2121-11-27**]  08:40 PM
                            [**2121-11-28**]  03:51 AM
                            [**2121-11-28**]  05:48 AM
                            [**2121-11-28**]  02:52 PM
                            [**2121-11-28**]  06:03 PM
                            [**2121-11-28**]  06:18 PM
                            [**2121-11-29**]  05:51 AM
                            [**2121-11-29**]  04:43 PM
                            [**2121-11-30**]  03:50 AM
                            [**2121-11-30**]  04:02 AM
   WBC
   15.2
   13.6
   8.3
   Hct
   23.6
   25.1
   24.2
   23.9
   Plt
   367
   403
   354
   Cr
   2.4
   2.5
   2.5
   2.6
   2.6
   2.8
   TropT
   0.14
   0.14
   0.15
   0.16
   TCO2
   30
   26
   28
   Glucose
   102
   108
   112
   88
   106
   118
   Other labs: PT / PTT / INR:16.9/26.9/1.5, CK / CKMB /
   Troponin-T:23/2/0.16, Differential-Neuts:82.2 %, Lymph:7.8 %, Mono:5.4
   %, Eos:4.2 %, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:207 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   A 73 year old gentleman with signs of urosepsis in supraventricular
   tachycardia presenting for g-tube evaluation.  His g-tube appears to be
   properly functioning.
   1. Arrhytmia: Per cards, pt was in Atach, Afib on admission, was given
   Adenosine and BBlocker. Now in sinus by last EKG's [**2121-11-28**]. Have
   consulted Cards who rec an Amiodarone load then maintenance, which the
   pt was on in the past and stopped due to liver/lung issues.
   - Dig level low will need to be increased, currently at 0.125mg every
   other day and will dose at q day
 cards recommends stopping dig one
   week after amiodarone
   - Will NOT start Amiodarone load then maintenance as outlined by cards
   because pt was on it before and had complications with liver/lung
   complications
 will touch base with Cards about this and let them know
   - Will need to start discussing anticoagulation for h/o AFib, was
   previously on, but stopped due to guaic positive stools and persistent
   transfusion requirements
 will NOT anticoagulate this pt for those
   exact reasons
   - Replete electrolytes
   - Now currently off Levo and ADH
   - If heart rate increases, would control with Bblockade per Cards recs,
   as bp can tolerate
   - F/u with cards this morning
   - Repeat EKG today to assure in sinus rhythm
   .
   2. Hypotension: The patient was hypotensive with poor urine output on
   admission, and thought to be distributive shock from urosepsis or PNA
   and started on ABx. Was started on pressors which have now been
   weaned.
   - Watch hemodynamics through the day
   - Control tachycardia as above with BBlockade, as tolerated by bp
   - Vanc/Cefipime/Cipro for GU and Pulm infectious sources
   - NS bolus to improve urine output prn
   .
   3. H/o HIT with need to be anticoagulated
   - F/u with heme, they have outlined their recs for starting Argatroban
   to Coumadin
   - We will touch base with heme as well and let them know we will NOT be
   starting the anticoagulation due to h/o slow chronic bleed requiring
   frequent transfusions.
   .
   3. Persistent respiratory failure: Unclear history of trach collar vs.
   dependence on Vent.  SBT trial this morning.  Plan to wean to trach
   mask. Could also have component of weakness, infection; echo findings
   new versus prior (borderline function of RV), unable to anticoagulate
   d/t persistent GI bleed
   .
    4. PNA: Health care vs. Ventilator associated PNA.
   - Vanc/Cefipime/Cipro
   - Sputum culture
   .
   5. Urosepsis: <10,000 [**Last Name (LF) **], [**First Name3 (LF) **] unlikely UTI
   - F/U Urine culture
   - ABx as above
   6. Acute on Chronic Renal failure: Likely pre-renal, not receiving as
   much nutrition at OSH. ATN vs. Pre-renal. FeNa yesterday was 0.5
   - Cr is chronically elevated, but will continue to trend.  Is 2.8 this
   morning, was 2.6 yesterday
   - Give fluid boluses today as took off a lot of fluid yesterday
   - renally dose meds
   .
   7. Hypernatremia: Hypovolemic hypernatremia on admission. Back up this
   morning to 147
   - Increase free water boluses via G tube to 200mL q6
   - Meaure pm Na
   .
   8. Liver failure: Patient was found to have cirrhosis and ascites on
   imaging.  He had a paracentesis yest and 9L was removed.  This has been
   sent for culture data and has been NTD.  Hepatology involved.
   -Hepatology recs:
   ----- Hep serologies; immunoglobulins; [**Last Name (un) 4195**]; ferritin, iron, TIBC
   ----- Careful EtOH hx.
   ------ Review of records regardin cardio-pulmonary issues given no
   ascites before surgery
   9. Agitation / delirium: started seroquel yesterday and tolerated will
   -increase dose of seroquel today if neded.
   .
   10. S/P CABG: Elevated troponins likely rate/renal function related.
   - Statin, ASA
   .
   11. Depression:
   - Continue Paxil
   .
   12. "Funny Carotids" No signs of stroke, neuro exam WNL.
   - F/u carotid dopplers, wet read normal
   .
   13. DM: ISS, no standing for now
   .
   14. G-tube malfunction: functioning per surgery, Radiology and nursing.
   Surgery has signed off.
   .
   FEN: IVF as above, replete electrolytes, tube feeds
   Prophylaxis: Boots, PPI, Bowel reg
   Access: L PIV. L subclavian triple lumen. R AC PICC and R femoral have
   been pulled
   Code:  DNR, already tracheally intubated.
   Communication: Patient, daughter [**Name (NI) **]: [**Telephone/Fax (1) 11465**] (home); cell:
   [**Telephone/Fax (1) 11466**]
   Disposition: ICU pending clinical improvement

2121-12-01 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2121-11-30**] 02:00 PM
   LENIs
   -pseudomonas from sputum so continue double pseudomonas coverage and
   stop vanc
   -consulted cardiac surgery re: sternal wound causing resp effort
   difficulties and they did not believe it did.
   -consulted cardiology re: amiodarone.  No call back.
   -consulted palliative care [**Last Name (un) 377**] re: decision making.  No call back.
   -LENI prelim was negative
   - Started on low-dose Agatroban for PE prophylaxis
   - Worsening hypernatremia, added free water flushes to tube feeds
   - F/U Hep serologies; immunoglobulins; [**Last Name (un) 4195**]; ferritin, iron, TIBC
   passed RSBI's but subjectively dyspneic
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2121-11-29**] 08:00 AM
   [**Year (4 digits) 11557**] - [**2121-11-29**] 12:00 PM
   Infusions:
   Argatroban - 0.12 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2121-11-30**] 12:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-1**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.4
C (97.6
   HR: 96 (89 - 108) bpm
   BP: 138/59(83) {98/52(66) - 157/76(98)} mmHg
   RR: 18 (18 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,022 mL
                                                                    731 mL
   PO:
             TF:
                                                                    845 mL
                                                                    253 mL
   IVF:
                                                                     57 mL
                                                                     78 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    875 mL
                                                                    340 mL
   Urine:
                                                                    875 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,147 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 387 (387 - 438) mL
   PS : 8 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.38/46/98/27/0   this morning
   NIF: -22 cmH2O
   Ve: 11.8 L/min
   PaO2 / FiO2: 245
   Physical Examination
   Awake, alert, trying to speak. Does not appear agitated. Rest of
   physical exam is unchanged from previous
   Labs / Radiology
   364 K/uL
   7.2 g/dL
   112 mg/dL
   2.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   52 mg/dL
   111 mEq/L
   147 mEq/L
   23.0 %
   9.1 K/uL
        [image002.jpg]
                            [**2121-11-28**]  02:52 PM
                            [**2121-11-28**]  06:03 PM
                            [**2121-11-28**]  06:18 PM
                            [**2121-11-29**]  05:51 AM
                            [**2121-11-29**]  04:43 PM
                            [**2121-11-30**]  03:50 AM
                            [**2121-11-30**]  04:02 AM
                            [**2121-11-30**]  03:56 PM
                            [**2121-12-1**]  03:18 AM
                            [**2121-12-1**]  03:45 AM
   WBC
   13.6
   8.3
   9.1
   Hct
   25.1
   24.2
   23.9
   23.0
   Plt
   [**Telephone/Fax (3) 11545**]
   Cr
   2.5
   2.6
   2.6
   2.8
   2.7
   2.7
   TropT
   0.15
   0.16
   TCO2
   26
   28
   28
   Glucose
   112
   88
   106
   118
   111
   112
   Other labs: PT / PTT / INR:19.9/38.0/1.8   INR increasing , CK / CKMB /
   Troponin-T:23/2/0.16, Differential-Neuts:82.2 %, Lymph:7.8 %, Mono:5.4
   %, Eos:4.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:207 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: Hepatitis and auto immune labs pending
   Dig level 0.4, 0.7, 0.7
   para fluid WBC 1175 poly 52 lymph 4 mono 0 meso2 macrophage 42
   Tprot 4.2
   Glucose 105
   LDH 122
   Albumin 1.8
    RBC 400
   Imaging: CXR this am
   [**11-30**] LENI's negative
   [**11-30**] CXR
   FINDINGS: Comparison is made to prior study from [**2121-11-29**].
   Cardiac silhouette is enlarged and there is widening of the vascular
   pedicle.
   There is again seen prominence in the pulmonary interstitial markings
   consistent with pulmonary edema. There is a right-sided pleural
   effusion,
   which is stable. There is decreased amount of fluid within the minor
   fissure
   since the previous study. There remains subsegmental atelectasis within
   the
   left mid lung zone. The tracheostomy is unchanged. There are no
   pneumothoraces. There is a left-sided central venous catheter with the
   distal
   lead tip in the mid SVC, stable.
   Microbiology: [**11-29**] para fluid Gstain and Cx negative
   [**11-28**] Cath tip negative, Cdiff negative, resp screen negative
   [**11-28**] Sputum with pseudomonas, two morphs
   [**11-28**] urine with [**Month/Year (2) **]'s
   [**11-27**] BCx's negative x2
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ASCITES
 DEPRESSION
 TACHYCARDIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, CHRONIC
   A 73 year old gentleman with signs of urosepsis in supraventricular
   tachycardia presenting for g-tube evaluation.  His g-tube appears to be
   properly functioning. His urine has grown out <[**2112**] [**Year (4 digits) **]
s, unlikely a
   true infection, but he also has sputum with Pseudomonas, currently
   being treated.
   1. Arrhythmia: Per cards, pt was in Atach, Afib on admission, was given
   Adenosine and BBlocker. Now in sinus. Have consulted Cards who rec an
   Amiodarone load then maintenance, which the pt was on in the past and
   stopped due to liver/lung issues.
   - Dig level is not elevated, will continue dosage as is.
   - Cards rec'd starting Amiodarone but will need to touch base with them
   to let them know we will NOT start this due to lung/liver problems in
   the past
   - Will start Bblocker for increased bp
   - F/u with cards this morning
   2. Hypotension: The patient was hypotensive with poor urine output on
   admission, and thought to be distributive shock from urosepsis or PNA
   and started on ABx. Was started on pressors which have now been
   weaned.
   - Watch hemodynamics through the day
   - Control tachycardia as above with BBlockade, as tolerated by bp
   - [**Year (4 digits) 11557**]/Cipro for GU ([**Year (4 digits) **]) and Pulm (pseudomonas) infectious sources
   - NS bolus to improve urine output prn
   3. H/o HIT with need to be anticoagulated
   - Started on Argatroban gtt for PE prophylaxis per Heme recs
   - LENI's negative
   4. Persistent respiratory failure: Reportedly on vent for the last 6
   mos.  Failure to wean could be both pneumonia as well as component of
   weakness, echo findings of RV dysfunction suggesting possible PE
   (unable to anticoagulate d/t persistent GI bleed)
   - ABG looked good this morning, will continue to try to wean CPAP as
   tolerated
   - Repeat SBT today
   5. Fluid status: Was fluid up yesterday and is 5L positive through LOS,
   will start diuresis today with Lasix gtt, with goal 100-150cc/hr, goal
   1-2L / day.
   - PM lytes
   6. PNA: Pseudomonas cultured, is sensitive to [**Year (4 digits) 11557**], but resistant
   to Cipro
   - [**Year (4 digits) 11557**]/Cipro
 will need to switch cipro or possibly do single
   coverage with [**Last Name (LF) 11557**], [**First Name3 (LF) **] d/w team
   - Sputum culture
   - Daily CXR
   7. Urosepsis: <10,000 [**Last Name (LF) **], [**First Name3 (LF) **] unlikely UTI
   - F/U Urine culture
   - ABx as above
   8. Acute on Chronic Renal failure: Likely pre-renal, not receiving as
   much nutrition at OSH. ATN vs. Pre-renal. FeNa yesterday was 0.5
   - Cr is chronically elevated, but will continue to trend.  Is 2.7 this
   morning, was 2.7 yesterday
   - renally dose meds
   - Watch UOP through today
   9. Hypernatremia: Hypovolemic hypernatremia on admission. Back up this
   morning to 147
   - Increase free water boluses via G tube to 200mL q6
   - Measure pm Na
   10. Liver failure: Patient was found to have cirrhosis and ascites on
   imaging.  He had a paracentesis a couple days ago and 9L was removed.
   This has been sent for culture data and has been NTD.  Hepatology
   involved.
   - F/u hepatitis panels and autoimmune panels
   - Hepatology recs:
   - Review of records regarding cardio-pulmonary issues given no ascites
   before surgery
   - Consider repeat Dx paracentesis to evaluate resolution
   - F/u Cx
s from para fluid
   9. Agitation / delirium: started seroquel yesterday and tolerated
   -increase dose of seroquel today if needed.
   10. S/P CABG: Elevated troponins likely rate/renal function related.
   - ASA
   - Statin has been d/c
   11. Depression:
   - Continue Paxil
   12. "Funny Carotids" No signs of stroke, neuro exam WNL.
   - carotid dopplers with <40% stenosis
   13. DM: ISS, no standing for now
   14. G-tube malfunction: functioning per surgery, Radiology and nursing.
   Surgery has signed off.
   FEN: IVF as above, replete electrolytes, tube feeds
   Prophylaxis: Boots, PPI, Bowel reg
   Access: L PIV. L subclavian triple lumen.
   Code:  DNR, already tracheally intubated.
   Communication: Patient, daughter [**Name (NI) **]: [**Telephone/Fax (1) 11465**] (home); cell:
   [**Telephone/Fax (1) 11466**]
   Disposition: ICU pending clinical improvement
   ------ Protected Section ------
   Addendem: Palliative care was consulted yesterday and will contact the
   pt
s daughter to work out overall goals of care, as current impetus of
   therapy may not have been consistent with pt
s wishes. Will f/u.
   ------ Protected Section Addendum Entered By:[**Name (NI) 902**] [**Last Name (NamePattern1) 11223**], MD
   on:[**2121-12-1**] 16:54 ------

2121-12-01 09:41:00 Physician Attending Progress Note
Chief Complaint: resp failure, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2121-11-30**] 02:00 PM
   LENIs
   off pressors
   more alert
   failed SBT
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2121-11-29**] 08:00 AM
   Cefipime - [**2121-11-29**] 12:00 PM
   Infusions:
   Argatroban - 0.12 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2121-11-30**] 12:53 PM
   Lansoprazole (Prevacid) - [**2121-12-1**] 08:38 AM
   Other medications:
   meds reviewed from [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-1**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 101 (89 - 102) bpm
   BP: 163/73(102) {98/52(66) - 163/76(102)} mmHg
   RR: 28 (18 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  3,022 mL
                                                                  1,126 mL
   PO:
             TF:
                                                                    845 mL
                                                                    333 mL
   IVF:
                                                                     57 mL
                                                                    103 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    875 mL
                                                                    452 mL
   Urine:
                                                                    875 mL
                                                                    452 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,147 mL
                                                                    674 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 415 (323 - 438) mL
   PS : 8 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.38/46/98.[**Numeric Identifier 176**]/27/0
   NIF: -22 cmH2O
   Ve: 11.1 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : posteriorly)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 2+ edema, Left lower
   extremity edema: 2+ edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   7.2 g/dL
   364 K/uL
   112 mg/dL
   2.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   52 mg/dL
   111 mEq/L
   147 mEq/L
   23.0 %
   9.1 K/uL
        [image002.jpg]
                            [**2121-11-28**]  02:52 PM
                            [**2121-11-28**]  06:03 PM
                            [**2121-11-28**]  06:18 PM
                            [**2121-11-29**]  05:51 AM
                            [**2121-11-29**]  04:43 PM
                            [**2121-11-30**]  03:50 AM
                            [**2121-11-30**]  04:02 AM
                            [**2121-11-30**]  03:56 PM
                            [**2121-12-1**]  03:18 AM
                            [**2121-12-1**]  03:45 AM
   WBC
   13.6
   8.3
   9.1
   Hct
   25.1
   24.2
   23.9
   23.0
   Plt
   [**Telephone/Fax (3) 11545**]
   Cr
   2.5
   2.6
   2.6
   2.8
   2.7
   2.7
   TropT
   0.15
   0.16
   TCO2
   26
   28
   28
   Glucose
   112
   88
   106
   118
   111
   112
   Other labs: PT / PTT / INR:19.9/38.0/1.8, CK / CKMB /
   Troponin-T:23/2/0.16, Differential-Neuts:82.2 %, Lymph:7.8 %, Mono:5.4
   %, Eos:4.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:207 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ASCITES
 DEPRESSION
 TACHYCARDIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, CHRONIC
   73-year-old man with persistent respiratory failure following cardiac
   surgery now returns with septic shock.  Shock has improved under
   treatment.
   Septic shock
   Shock now resolved under treatment
   Sources appear to be pneumonia (Pseudomonal) and urine (GNR).
   On cefepime and cipro pending sensitivities
   Respiratory failure
   Will begin attempts at aggressive diuresis with Lasix gtt
   Aim for 2L negative
   Retry SBT in afternoon
   If resp failure persists, will consider CT and discuss with CSurg
   Cirrhosis
   Appreciate hepatology
s help
   Etiologic evaluation underway
   Consider repeat taps.  Spontaneous bacterial peritonitis (vs. other
   peritonitis) under treatment.
   Atrial tachycardia
   On digoxin with good results so far.  No amiodarone given liver and
   lung issues.
   Add beta blockade.
   Goals of care
   Will discuss further with daughter (HCP) and (if possible) patient.
   Multiple discussions over weekend.  Currently DNR.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-12-1**] 04:50 AM 35 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-11-27**] 06:30 PM
   Arterial Line - [**2121-11-28**] 05:30 AM
   Multi Lumen - [**2121-11-28**] 08:15 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, argatroban)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2121-12-02 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - lasix gtt. At 2200, making good UOP but still approx net even for
   day, on 10mg/hr.
   - diagnostic paracentesis to check for WBC  --> NOT DONE TODAY
   - PM lytes: Na the same at 147 (increased free H2O to 250cc q4), rest
   of lytes normal, BUN/Cr decreased a little 49/2.5.
   - Going up on Argatroban for PTT's still not up to 40-60 goal
   - palliative care: evaluated him, will continue to work with speech
   therapy and daughter to establish goals of care
   - hematology: PTT goal 40-60, watch for bleeding, discuss with Cards if
   anticoagulation is necessary. If so, would consider bridge to Coumadin.
   - Daughter will be coming back Wednesday, fam meeting 2pm
   - SCx with Pseudomonas pan sensitive EXCEPT FOR [** **] --> d/c'd [** **]
   and continues only on Cefepime
   - Speech therapy saw and used artificial larynx for him to speak, will
   come by tomorrow with PMV
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2121-11-29**] 08:00 AM
   Ciprofloxacin - [**2121-12-1**] 10:15 AM
   Cefipime - [**2121-12-1**] 01:05 PM
   Infusions:
   Argatroban - 0.16 mcg/Kg/min
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2121-12-1**] 08:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-2**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 74 (74 - 101) bpm
   BP: 137/58(80) {109/45(64) - 163/77(106)} mmHg
   RR: 19 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,687 mL
                                                                    821 mL
   PO:
             TF:
                                                                    842 mL
                                                                    224 mL
   IVF:
                                                                    481 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                  2,641 mL
                                                                  1,110 mL
   Urine:
                                                                  1,891 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     46 mL
                                                                   -289 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 448 (323 - 458) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.37/51/88/27/2   3am this morning
   Ve: 7.5 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Awoken, appropriate. Lungs fairly clear with fair air movement. S1 S2
   clear with systolic murmur. Abdomen is distended, tight, not tender to
   palpation. G tube appears well placed. No BLE edema noted
   Labs / Radiology
   408 K/uL
   7.8 g/dL
   124 mg/dL
   2.5 mg/dL
   27 mEq/L
   3.8 mEq/L
   46 mg/dL
   110 mEq/L
   146 mEq/L  high
   25.7 %
   12.6 K/uL
        [image002.jpg]
                            [**2121-11-29**]  04:43 PM
                            [**2121-11-30**]  03:50 AM
                            [**2121-11-30**]  04:02 AM
                            [**2121-11-30**]  03:56 PM
                            [**2121-12-1**]  03:18 AM
                            [**2121-12-1**]  03:45 AM
                            [**2121-12-1**]  03:10 PM
                            [**2121-12-1**]  10:04 PM
                            [**2121-12-2**]  03:33 AM
                            [**2121-12-2**]  03:48 AM
   WBC
   8.3
   9.1
   12.6
   Hct
   23.9
   23.0
   25.7
   Plt
   354
   364
   408
   Cr
   2.6
   2.8
   2.7
   2.7
   2.5
   2.5
   TCO2
   28
   28
   30
   31
   Glucose
   106
   118
   111
   112
   124
   Other labs: PT / PTT / INR:19.9/41.0/1.8   (stable, PTT within range) ,
   CK / CKMB / Troponin-T:23/2/0.16, Differential-Neuts:82.2 %, Lymph:7.8
   %, Mono:5.4 %, Eos:4.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL,
   LDH:207 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: Hepatitis panels negative
   Anti smooth muscle Abs positive
   [**Doctor First Name **] positive, titer pending
   IgG elevated 2070 (ULN 1500)
   Imaging: [**12-2**] CXR this am not much changed
   [**12-1**] CXR There is interval development of pulmonary edema with
   increased bilateral pleural effusion. There is also engorgement of the
   mediastinal vasculature. There is no overt pneumothorax.
   Microbiology: [**11-29**] para fluid negative
   [**11-28**] cath tip negative, Cdiff negative
   [**11-28**] sputum with pansensitive pseudomonas except for [**Month/Year (2) **]
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ASCITES
 DEPRESSION
 TACHYCARDIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, CHRONIC
   A 73 year old gentleman with signs of urosepsis in supraventricular
   tachycardia presenting for g-tube evaluation.  His g-tube appears to be
   properly functioning and is no longer an active issue. His urine has
   grown out <[**2112**] GNR
s, so unlikely a true infection, but he also has
   sputum with Pseudomonas, currently being treated, which likely is a
   true infection. In his workup at this hospital it was learned that he
   has a cirrhotic liver, of unknown etiology, and had significant ascites
   that has been 9L tapped. Current active issues are the
   etiology/workup/management plan of this cirrhosis, managing the
   arrhythmia that he presented with (currently continues in sinus),
   managing his h/o HIT with anticoagulation needs (DVT prophy), and
   managing his trach/vent dependence.
   1. Liver failure: Patient was found to have cirrhosis and ascites on
   imaging.  He had a paracentesis a couple days ago and 9L was removed.
   This has been sent for culture data and has been NTD.  Hepatology
   involved. Now seen to have positive [**Doctor First Name **], positive anti-smooth muscle Ab
   and elevated IgG, consistent with autoimmune hepatitis etiology, but
   will f/u with Hepatology about this and how significant this is.
   - F/u with Hepatology today
   - Consider repeat Dx paracentesis to evaluate resolution, as we were
   unable to do this yesterday
 will need albumin today after para
   - Cx's from fluid have been negative for infection
   - Invite Hepatology to family meeting tomorrow at Wednesday 2pm
   2. Arrhythmia: Per cards, pt was in Atach, Afib on admission, was given
   Adenosine and BBlocker. Now in sinus. Have consulted Cards who rec an
   Amiodarone load then maintenance, which the pt was on in the past and
   stopped due to liver/lung issues. We have elected not to restart the
   Amiodarone due to this history of issues, but have started him on Dig
   instead.
   - Dig level is not elevated, will continue dosage as is.
   - Started on Bblocker [**12-1**] and bp and pressures mostly in the 130's -
   160's
   - Keep an eye on telemetry, go up on Bblocker as needed, currently at
   25 PO bid
   3. PNA: Pseudomonas cultured, is sensitive to Cefipime, but resistant
   to [**Name (NI) **]
   - Pt was on Cefepime/[**Name (NI) **], but yesterday d/c'd [**Name (NI) **]
   - Today is day 5 of Cefepime
   4. Persistent respiratory failure: Reportedly on vent for the last 6
   mos.  Failure to wean could be both pneumonia as well as component of
   weakness, echo findings of RV dysfunction suggesting possible PE
   (unable to anticoagulate d/t persistent GI bleed), or persistent
   pleural effusions due to persistent ascites
   - Doing well on SBT this am, may be able to get off vent today
   - ABG looked good this morning
   - Will get ABG and VGB today and see if they correlate well
   5. H/o HIT with need to be anticoagulated. LENI's are negative
   - Started on Argatroban gtt for PE prophylaxis per Heme recs with goal
   PTT 40-60
   6. CXR with concern for loculated effusion. Pt is now stable enough to
   get CT chest to further delineate, unthough unclear if pt would be
   amenable to drainage.
   7. Hypotension: The patient was hypotensive with poor urine output on
   admission, and thought to be distributive shock from urosepsis or PNA
   and started on ABx. Was started on pressors which have now been weaned.
   No longer an active issue
   - Watch hemodynamics through the day
   - Control tachycardia as above with BBlockade, as tolerated by bp
   - Cefipime for Pulm (pseudomonas) infectious sources
   - NS bolus to improve urine output prn
   8. Fluid status: Was about fluid even yesterday and is still 5L
   positive through LOS, although this doesn
t count the 9L taken off
   during para. Started Lasix gtt yesterday with good UOP, but also
   getting free H2O flushes which contributes a fair amt of free water
   into his GI track. Will continue diuresis today with Lasix gtt, with
   goal 100-150cc/hr, goal 1-2L / day.
   - Was approximately even yesterday
   - Yesterday went up to 12mg/hr Lasix gtt
 will increase to 15mg/hr
   - F/u UOP later and may have to increase.
   9. Acute on Chronic Renal failure: Likely a chronic renal insufficiency
   with Cr
s in the 2
s on admission. Lasix diuresis at OSH was also
   limited by renal failure. Of note, UA came back positive for urine
   eosinophils, concerning for acute interstitial nephritis.
   - Will get repeat UA, lytes, and urine eos to re-evaluate. If positive,
   would ask renal if they would treat for this AIN
   - Cr is chronically elevated, but will continue to trend.  Is 2.5 this
   morning, was 2.7 yesterday.
   - renally dose meds
   - Watch UOP through today
   10. Hypernatremia: Hypovolemic hypernatremia on admission. Back up this
   morning to 147
   - Have increased free water boluses via G tube to 250cc q4
   - Measure pm Na
   11. Agitation / delirium: Have started seroquel and appears to be well
   tolerating
   -increase dose of seroquel today if needed.
   12. S/P CABG: Elevated troponins likely rate/renal function related.
   - ASA
   - Statin has been d/c
   13. Depression:
   - Continue Paxil
   14. "Funny Carotids" No signs of stroke, neuro exam WNL. Not an active
   issue.
   - carotid dopplers with <40% stenosis
   - not active issue
   15. DM: ISS, no standing for now
   16. G-tube malfunction: functioning per surgery, Radiology and nursing.
   Surgery has signed off. Not an active issue
   FEN: IVF as above, replete electrolytes, tube feeds (Nutren)
   Prophylaxis: Boots, PPI, Bowel reg, systemic Argatroban
   Access: L subclavian triple lumen. R art line, L PIV
 will d/c
   subclavian line today and put order in for PICC placement
   Code:  DNR, already tracheally intubated.
   Communication: Patient, daughter [**Name (NI) **]: [**Telephone/Fax (1) 11465**] (home); cell:
   [**Telephone/Fax (1) 11466**]
   Disposition: ICU pending clinical improvement --> Have set up a family
   meeting for Wednesday at 2pm with daughter and will need to discuss
   goals of care.

2121-12-02 10:25:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp failure (chronic), septic shock (improved)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   [**Last Name (un) 4195**] (+), with high IgG
   Urine eos(+)
   Low RSBI --> tolerating SBT this morning
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-12-1**] 10:15 AM
   Cefipime - [**2121-12-1**] 01:05 PM
   Infusions:
   Argatroban - 0.16 mcg/Kg/min
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Other medications:
   bowel reg, dig 0.125, asa, vitamins, sqi, mdi's, CHG, cefepime, MVI,
   paxil, argatroban, metoprolol, Lasix gtt, seroquel qhs< PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-2**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.9
   HR: 74 (74 - 89) bpm
   BP: 119/51(70) {109/45(64) - 163/77(106)} mmHg
   RR: 20 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,687 mL
                                                                  1,464 mL
   PO:
             TF:
                                                                    842 mL
                                                                    352 mL
   IVF:
                                                                    481 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  2,641 mL
                                                                  1,340 mL
   Urine:
                                                                  1,891 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     46 mL
                                                                    124 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 377 (377 - 458) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.37/51/87.[**Numeric Identifier 181**]/27/2
   Ve: 8.3 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, Diminished: )
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   7.8 g/dL
   408 K/uL
   124 mg/dL
   2.5 mg/dL
   27 mEq/L
   3.8 mEq/L
   46 mg/dL
   110 mEq/L
   146 mEq/L
   25.7 %
   12.6 K/uL
        [image002.jpg]
                            [**2121-11-29**]  04:43 PM
                            [**2121-11-30**]  03:50 AM
                            [**2121-11-30**]  04:02 AM
                            [**2121-11-30**]  03:56 PM
                            [**2121-12-1**]  03:18 AM
                            [**2121-12-1**]  03:45 AM
                            [**2121-12-1**]  03:10 PM
                            [**2121-12-1**]  10:04 PM
                            [**2121-12-2**]  03:33 AM
                            [**2121-12-2**]  03:48 AM
   WBC
   8.3
   9.1
   12.6
   Hct
   23.9
   23.0
   25.7
   Plt
   354
   364
   408
   Cr
   2.6
   2.8
   2.7
   2.7
   2.5
   2.5
   TCO2
   28
   28
   30
   31
   Glucose
   106
   118
   111
   112
   124
   Other labs: PT / PTT / INR:19.7/39.1/1.8, CK / CKMB /
   Troponin-T:23/2/0.16, Differential-Neuts:82.2 %, Lymph:7.8 %, Mono:5.4
   %, Eos:4.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:207 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   73-year-old man with persistent respiratory failure following cardiac
   surgery now returns with septic shock.  Shock has resolved under
   treatment.  Cirrhosis is a new finding, and evaluation suggests
   autoimmune hepatitis.  There is also some suggestion that acute renal
   failure could be related to AIN.
   Respiratory failure
   Now tolerating SBT.  Consider TC trial later.
   PMV trial today for communication.
   Diuresis with Lasix gtt goal -1000
 [**2112**] today, though free water may
   limit success in total nets.
   CT chest to exclude loculated effusion.
   Cirrhosis
   Appreciate hepatology
s help
   Etiologic evaluation underway.  Labs are concerning for autoimmune
   disease.
   Will discuss with hepatology regarding whether repeat paracentesis
   would be helpful.
   Acute renal failure
   Initially felt to be related to shock and possible UTI.
   However, pyuria and urine eosinophils raise the possibility of AIN.
   Repeat UA, lytes, and eos today.
   Sepsis
   Shock now resolved under treatment
   Sources appear to be pneumonia (Pseudomonal) and urine (GNR).
   On cefepime.
   CT chest to exclude complicated parapneumonic effusion.
   Atrial tachycardia
   On digoxin with good results so far.  No amiodarone given liver and
   lung issues.
   Add beta blockade.
   HIT
   On argatroban
   Lines
   PICC if feasible today.  Art line out today or tomorrow if ABG and VBG
   correlating.
   Goals of care
   Meeting scheduled for tomorrow with daughter (HCP) and (if possible)
   patient. Palliative care consulted. Currently DNR.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-12-2**] 04:49 AM 35 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-11-27**] 06:30 PM
   Arterial Line - [**2121-11-28**] 05:30 AM
   Multi Lumen - [**2121-11-28**] 08:15 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2121-12-03 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2121-12-2**] 11:00 AM
 EKG - At [**2121-12-2**] 12:36 PM
 PARACENTESIS - At [**2121-12-2**] 05:00 PM
   - Diagnostic [**Year (4 digits) **] today, 1L off
   - f/u hepatology recs re autoimmune dx
   - given albumin 1g/kg after diagnostic [**Year (4 digits) **]
   - repeat urine lytes and eos -> eos remain positive, FENa and FEUrea
   elevated, UA grossly infected, Cr persistently elevated.  Will need
   renal consult in AM.
   - ABG and VBG samples swapped in two samples.  Correlate well.
   - n/c chest CT shows pericardial effusion and slightly loculated
   pleural effusions, especially on right side along pleural and heart
   surfaces.
   - PICC line not placed yet.
   - Patient got SBT for several hours
   - family meeting set up for tomorrow morning, plan to have PM valve in
   place during breathing trial for that.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-12-1**] 10:15 AM
   Cefipime - [**2121-12-2**] 12:04 PM
   Infusions:
   Argatroban - 0.2 mcg/Kg/min
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Labetalol - [**2121-12-2**] 11:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-3**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 77 (69 - 104) bpm
   BP: 125/53(73) {108/49(67) - 206/98(137)} mmHg
   RR: 25 (17 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
           Total In:
                                                                  3,324 mL
                                                                  1,022 mL
   PO:
           TF:
                                                                    840 mL
                                                                    232 mL
   IVF:
                                                                    691 mL
                                                                    144 mL
   Blood products:
                                                                    353 mL
                                                                    147 mL
   Total out:
                                                                  4,640 mL
                                                                  1,100 mL
   Urine:
                                                                  3,640 mL
                                                                    700 mL
   NG:
   Stool:
   400 mL
   Drains:
                                                                  1,000 mL
   Balance:
                                                                 -1,316 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 389 (315 - 420) mL
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.38/45/110/27/0    TODAY 3AM
   Ve: 9.2 L/min
   PaO2 / FiO2: 275
   Physical Examination
   Awake, alert, answering questions. Trach in place. Lungs with fair air
   movement, clear bilaterally. Heart benign. Abdomen still distended but
   not tender to palpation. No edema noted in BLE
s. Later, spoke to pt
   when passey muir valve placed and pt in no distress, speaking clearly
   and answering appropriately. Only oriented to [**Location (un) 23**] and year [**2112**]
   something.
   Labs / Radiology
   380 K/uL
   7.1 g/dL
   107 mg/dL
   2.4 mg/dL
   27 mEq/L
   3.8 mEq/L
   46 mg/dL
   109 mEq/L
   147 mEq/L
   23.0 %
   9.1 K/uL
        [image002.jpg]
                            [**2121-12-1**]  03:10 PM
                            [**2121-12-1**]  10:04 PM
                            [**2121-12-2**]  03:33 AM
                            [**2121-12-2**]  03:48 AM
                            [**2121-12-2**]  12:04 PM
                            [**2121-12-2**]  12:45 PM
                            [**2121-12-2**]  01:08 PM
                            [**2121-12-2**]  06:03 PM
                            [**2121-12-3**]  02:17 AM
                            [**2121-12-3**]  02:58 AM
   WBC
   12.6
   9.1
   Hct
   25.7
   23.0
   Plt
   408
   380
   Cr
   2.5
   2.5
   2.4
   2.4
   TCO2
   30
   31
   29
   32
   32
   28
   Glucose
   124
   142
   107
   Other labs: PT / PTT / INR:21.4/50.0/2.0   THIS AM , CK / CKMB /
   Troponin-T:23/2/0.16, Differential-Neuts:78.0 %, Lymph:11.1 %, Mono:5.5
   %, Eos:5.0 %   ELEVATED AND RISING , Lactic Acid:0.8 mmol/L
   yesterday, Albumin:2.8 g/dL, LDH:207 IU/L, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: UA yesterday large blood, neg nitrite, mod
   LE, 57 WBC, mod bacteria, persistently positive eos
   FeUrea 45
   Ascites WBC 825 P18, L12, Mono 0, Mesoth 1, Macrophage 69
   RBC 640
   Tprot 4.2
   Gluc 132
   LDH 81
   Alb 2.3
   ABG 7.34/57/40/32
   VBG 7.38/50/92/31
   (likely the 2 were mislabeled and switched)
   Imaging: [**12-2**] CXR
    No significant interval change in the moderate-to-severe pulmonary
   edema.
   [**12-2**] CT chest without contrast
   [**11-27**] CT abdomen/pelvis
   IMPRESSION:
   1. Large amount of ascites. No evidence of pneumoperitoneum.
   2. Moderate bilateral pleural effusions with overlying atelectasis.
   3. Separation of sternal wound, concerning for dehiscence.
   4. Gastrostomy tube terminating within the stomach lumen.
   5. Foley catheter positioned within the proximal urethra, with inflated
   balloon. Recommend repositioning to that it terminates in the bladder.
   6. Shrunken liver with macro-lobular contour suggesting underlying
   chronic
   disease process such as cirrhosis.
   Microbiology: [**12-2**] [**Month/Year (2) **] Gstain 3+ PMN, no organisms
   Cx's pending
   [**11-29**] [**Month/Year (2) **] Gstain and Cx's negative
   [**11-28**] Cath tip, Cdiff, sputum negative
   Assessment and Plan
 ANXIETY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
 ASCITES
 DEPRESSION
 TACHYCARDIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, CHRONIC
   A 73 year old gentleman who presented with signs of urosepsis with
   atrial tachycardia/AFib presenting for g-tube evaluation.  His g-tube
   appears to be properly functioning and is no longer an active issue.
   His urine has grown out <[**2112**] GNR
s, so unlikely a true infection and
   no longer and active issue. He also has sputum with Pseudomonas,
   currently being treated, which likely is a true infection. In his
   workup at this hospital it was learned that he has a cirrhotic liver,
   with positive [**Doctor First Name **], anti smooth muscle, and elevated IgG, and had
   significant ascites that has been 9L tapped, and now s/p a second tap
   to assess for resolution. Current active issues are the
   etiology/workup/management plan of this cirrhosis, managing the
   arrhythmia that he presented with (currently continues in sinus),
   managing his h/o HIT with anticoagulation needs (DVT prophy), and
   managing his trach/vent dependence, Pseudomonas pneumonia, and now most
   currently, a positive UA with eosinophils and CT chest showing
   loculated effusions.
   1. Liver failure: Patient was found to have cirrhosis and ascites on
   imaging.  He had a paracentesis a couple days ago and 9L was removed
   and had a second [**Doctor First Name **] yesterday to assess for resolution, which showed
   less PMN's. Cx's from last [**Doctor First Name **] and Gstain from yesterday's [**Doctor First Name **] have
   been negative. Also with positive [**Doctor First Name **], positive anti-smooth muscle Ab
   and elevated IgG, consistent with autoimmune hepatitis etiology. Pt
   received some albumin with [**Doctor First Name **] yesterday.
   - F/u albumin this morning to calculate SAAG, but according to albumin
   from 4 days ago, would have SAAG <1.1 (0.5), differential including:
   peritonitis, peritoneal carcinomatosis, pancreatitis, vasculitides,
   hypoalbumin states, bowel obstruction, post-operative lymph leak
   note, pt received albumin yesterday after [**Last Name (LF) **], [**First Name3 (LF) **] this mornings add-on
   albumin will reflect this and his calculated SAAG using this will not
   be correct.
   - Added on amylase and lipase to this am's labs
   - F/u Cx's from most recent [**First Name3 (LF) **] yesterday
   - F/u with Hepatology today
   - Invite Hepatology to family meeting tomorrow at Wednesday 2pm
   2. Arrhythmia: Per cards, pt was in Atach, Afib on admission, was given
   Adenosine and BBlocker. Now in sinus. Have consulted Cards who rec an
   Amiodarone load then maintenance, which the pt was on in the past and
   stopped due to liver/lung issues. We have elected not to restart the
   Amiodarone due to this history of issues, but have started him on Dig
   instead.
   - Dig level is not elevated, will continue dosage as is.
   - Will get Dig level tomorrow morning
   - Received some IV Labatelol yesterday
   3. PNA: Pseudomonas cultured, is sensitive to Cefipime, but resistant
   to [**Name (NI) **]
   - Pt was on Cefepime/[**Name (NI) **], but yesterday d/c'd [**Name (NI) **]
   - Today is day 6 of Cefepime of 15 day course
   4. Fluid status--CXR with mild-mod pulm edema yesterday
   - Currently on Lasix gtt, will continue, now at 15mg / hr with goals
   150 cc/hr and 1-2L off per day.
   - Still about 5L positive today through LOS, but this may not reflect
   the 9L taken off during first [**Name (NI) **].
   5. Positive UA--Yesterday. On admission, concern for urosepsis but UCx
   only grow out <[**2112**] GNR's. Now with UA conerning for infxn yesterday,
   and have sent off UCx this am. Having low grade 100 temps for a couple
   days. WBC's at 9
   - F/u UCx.
   - Continues on Cefepime.
   - Hold off on starting new ABx for now but will consider broadening if
   urine Cx grows out
   6. Loculated pleural effusions, R > L.
   - Unsure what to do with this result in face of overall goals of care.
   Will be addressed at family meeting today whether to be aggressive with
   this or not.
   - Will need f/u of final CT read
   - Consult IP about draining them today, and if we proceed, will need to
   have Argatroban stopped for procedure.
   7. UA with persistent eosinophils, concerning for acute interstitial
   nephritis, in setting of persistently elevated Cr. DDx includes
   allergic rxn to drugs, infxns including pyelonephritis, and
   infiltrative diseases like sarcoid, lymphoma, leukemia.
   - Renal consult this am about eosinophilia.
   - Consider CT abdomen to assess for pyelonephritis, although was not
   seen on last CT abdomen/pelvis done recently
   8. Drifting down Hct: Has been slowly going down through admission and
   likely a consequence of phlebotomizing with q4 coag checks due to
   argatroban. No obvious source of bleeding and no hemodynamic changes.
   Had iron studies this admission showing low level iron and labs
   consistent with anemia of chronic disease. Also, had hematuria on most
   recent UA, but urine is clear and blood loss in urine unlikely to be
   hemodynamically relevant, but will need to watch and consider if
   continued drop in Hct.
   - As PTT is stabilizing, can space q4 coags to q6 and if continued
   stable PTT, likely just [**Hospital1 **]
   - Guiac all stools
   - Watch vitals signs
   - Will get pm Hct
   - Has triple lumen subclavian and L PIV
   - Type and screen this morning, transfuse for <21
   9. Persistent respiratory failure: Reportedly on vent for the last 6
   mos.  Failure to wean could be both pneumonia as well as component of
   weakness, echo findings of RV dysfunction suggesting possible PE
   (unable to anticoagulate d/t persistent GI bleed) or pulmonary HTN, or
   persistent pleural effusions due to persistent ascites.
   - Had SBT yesterday but got tachy and sweaty after several hours so put
   back on PS 8/5
   - Had good RSBI this morning at 74
   - Will have SBT with Passy Muir valve this morning
   - ABG and VBG yesterday correlated well
   10. H/o HIT with need to be anticoagulated. LENI's are negative
   - Started on Argatroban gtt for PE prophylaxis per Heme recs with goal
   PTT 40-60
   - Currently within range at 0.2 mcg/kg/hr with PTT 50 so will continue
   as is
   11. Hypernatremia: Hypovolemic hypernatremia on admission. Back up this
   morning to 147
   - Will increase free water via G tube to 300 q4hrs, but is a delicate
   balance between lowering pt
s hypernatremia and trying to get fluids
   off him with Lasix gtt
   - Measure pm Na
   12. Hypotension: The patient was hypotensive with poor urine output on
   admission, and thought to be distributive shock from urosepsis or PNA
   and started on ABx. Was started on pressors which have now been weaned.
   No longer an active issue
   - Watch hemodynamics through the day
   - Control tachycardia as above with BBlockade, as tolerated by bp
   - Cefipime for Pulm (pseudomonas) infectious sources
   - NS bolus to improve urine output prn
   13. Acute on Chronic Renal failure: Likely a chronic renal
   insufficiency with Cr
s in the 2
s on admission. Lasix diuresis at OSH
   was also limited by renal failure. Of note, UA came back positive for
   urine eosinophils, concerning for acute interstitial nephritis.
   - Renal consult in setting of positive urine eosinophils concerning for
   AIN.
   - Cr is chronically elevated, but will continue to trend.  Is 2.4 this
   morning, within recent baseline.
   - renally dose meds
   - Watch UOP through today
   11. Agitation / delirium: Have started seroquel and appears to be well
   tolerating
   -increase dose of seroquel today if needed.
   12. S/P CABG: Elevated troponins likely rate/renal function related.
   - ASA
   - Statin has been d/c
   13. Depression:
   - Continue Paxil
   14. "Funny Carotids" No signs of stroke, neuro exam WNL. Not an active
   issue.
   - carotid dopplers with <40% stenosis
   - not active issue
   15. DM: ISS, no standing for now
   16. G-tube malfunction: functioning per surgery, Radiology and nursing.
   Surgery has signed off. Not an active issue
   FEN: IVF as above, replete electrolytes, tube feeds (Nutren)
   Prophylaxis: Boots, PPI, Bowel reg, systemic Argatroban
   Access: L subclavian triple lumen. R art line, L PIV. Will need to have
   PICC placed, likely today, and can d/c subclavian line after that.
   Code:  DNR, already tracheally intubated.
   Communication: Patient, daughter [**Name (NI) **]: [**Telephone/Fax (1) 11465**] (home); cell:
   [**Telephone/Fax (1) 11466**]
   Disposition: ICU pending clinical improvement --> Have set up a family
   meeting for Wednesday at 2pm with daughter and will need to discuss
   goals of care.

2121-12-04 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Failure to wean from vent/delirium
   24 Hour Events:
 BLOOD CULTURED - At [**2121-12-3**] 08:00 AM X2
 URINE CULTURE - At [**2121-12-3**] 08:00 AM
 PICC LINE - START [**2121-12-3**] 10:30 AM
 MULTI LUMEN - STOP [**2121-12-3**] 03:45 PM
 BLOOD CULTURED - At [**2121-12-3**] 03:56 PM tip of MLC
   - IP to drain effusion tomorrow.  Stop Agatroban at 7am, coags at 11am,
   NPO/G after midnight.
   - renal recs re: AIN: likely AIN from antibiotics.  Rec bladder
   pressure and renal USG, no steroids, strict I and O, free water in PEG
   to 300 q4 for hypernat
   - aft Hct:improved from 23 in am to 25 in aft.  No need to transfuse.
   - hep recs: cont tx for SBP, Lasix gtt, possible TIPS and some
   illegible attending recs
   - Fam mtg: We will try aggressively for 1 wk then see where we stand,
   try to get him off vent and talking and see what his goals are. Plan
   for thoraco tomorrow. If acute decompensation, no escalation of care.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-12-1**] 10:15 AM
   Cefipime - [**2121-12-3**] 12:15 PM
   Infusions:
   Argatroban - 0.2 mcg/Kg/min
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-4**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.8
C (98.3
   HR: 70 (68 - 81) bpm
   BP: 116/48(69) {113/44(63) - 153/67(318)} mmHg
   RR: 12 (12 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,650 mL
                                                                    144 mL
   PO:
             TF:
                                                                    812 mL
   IVF:
                                                                    671 mL
                                                                    144 mL
   Blood products:
                                                                    147 mL
   Total out:
                                                                  3,775 mL
                                                                  1,390 mL
   Urine:
                                                                  3,375 mL
                                                                    940 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -125 mL
                                                                 -1,246 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 433 (340 - 492) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: ///30/
   Ve: 8.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   401 K/uL
   7.1 g/dL
   114 mg/dL
   2.2 mg/dL
   30 mEq/L
   4.3 mEq/L
   43 mg/dL
   109 mEq/L
   147 mEq/L
   23.8 %
   9.9 K/uL
        [image002.jpg]
                            [**2121-12-2**]  03:33 AM
                            [**2121-12-2**]  03:48 AM
                            [**2121-12-2**]  12:04 PM
                            [**2121-12-2**]  12:45 PM
                            [**2121-12-2**]  01:08 PM
                            [**2121-12-2**]  06:03 PM
                            [**2121-12-3**]  02:17 AM
                            [**2121-12-3**]  02:58 AM
                            [**2121-12-3**]  03:18 PM
                            [**2121-12-4**]  03:07 AM
   WBC
   12.6
   9.1
   9.9
   Hct
   25.7
   23.0
   25.0
   23.8
   Plt
   [**Telephone/Fax (3) 11628**]
   Cr
   2.5
   2.4
   2.4
   2.2
   TCO2
   31
   29
   32
   32
   28
   Glucose
   124
   142
   107
   114
   Other labs: PT / PTT / INR:20.0/41.5/1.8, CK / CKMB /
   Troponin-T:23/2/0.16, Amylase / Lipase:29/36, Differential-Neuts:78.0
   %, Lymph:11.1 %, Mono:5.5 %, Eos:5.0 %, Lactic Acid:0.8 mmol/L,
   Albumin:4.5 g/dL, LDH:207 IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:2.9
   mg/dL
   Imaging: [**12-4**] CXR: linear R opacity, costophrenic angle slightly
   opacified.
   Microbiology: Blood cx pending
   Urine cx pending
   Line tip cx pending
   Assessment and Plan
 BALANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ANXIETY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
 ASCITES
 DEPRESSION
 TACHYCARDIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, CHRONIC
   A 73 year old gentleman who presented with signs of urosepsis with
   atrial tachycardia/AFib presenting for g-tube evaluation.  His g-tube
   appears to be properly functioning and is no longer an active issue.
   His urine has grown out <[**2112**] GNR
s, so unlikely a true infection and
   no longer and active issue. He also has sputum with Pseudomonas,
   currently being treated, which likely is a true infection. In his
   workup at this hospital it was learned that he has a cirrhotic liver,
   with positive [**Doctor First Name **], anti smooth muscle, and elevated IgG, and had
   significant ascites that has been 9L tapped, and now s/p a second tap
   to assess for resolution. Current active issues are the
   etiology/workup/management plan of this cirrhosis, managing the
   arrhythmia that he presented with (currently continues in sinus),
   managing his h/o HIT with anticoagulation needs (DVT prophy), and
   managing his trach/vent dependence, Pseudomonas pneumonia, and now most
   currently, a positive UA with eosinophils and CT chest showing
   loculated effusions.
   #. Liver failure:  Patient
s SAAG>1.1, making differential once again
   cirrhosis vs right heart failure.  Amylase and lipase negative.  ?
   mental status could be due to ammonia levels?
   - continue cefepime.
   - given hepatohydrothorax, need to consider [**Last Name (un) 3024**] per hepatology.
   Patient was found to have cirrhosis and ascites on imaging.  Positive
   [**Doctor First Name **], positive anti-smooth muscle Ab and elevated IgG, consistent with
   autoimmune hepatitis etiology.
   - F/u Cx's from most recent para yesterday
   - F/u with Hepatology today
   #. Acute on chronic renal failure: Seen by renal yesterday.  Thought
   etiology ATN and AIN given elevated FENa off of diuretics.  Recommended
   bladder pressure and renal USG.  UA with persistent eosinophils,
   concerning for acute interstitial nephritis, in setting of persistently
   elevated Cr. DDx includes allergic rxn to drugs, infxns including
   pyelonephritis, and infiltrative diseases like sarcoid, lymphoma,
   leukemia.
   - Continue diuresis but give free water for
   - f/u bladder pressure
   #. Arrhythmia: Per cards, pt was in Atach, Afib on admission, was given
   Adenosine and BBlocker. Now in sinus and dig loaded.  Dig level this
   morning is reassuring.
   - Dig level is not elevated, will continue dosage as is.
   - Will get Dig level tomorrow morning
   - Received some IV Labatelol yesterday
   #. PNA: Pseudomonas cultured, is sensitive to Cefipime, but resistant
   to [**Name (NI) **]
   - Pt was on Cefepime/[**Name (NI) **], but yesterday d/c'd [**Name (NI) **]
   - Today is day 7 of Cefepime of 15 day course
   #. Positive UA--Yesterday. On admission, concern for urosepsis but UCx
   only grow out <[**2112**] GNR's. Now with UA conerning for infxn yesterday,
   and have sent off UCx this am. Having low grade 100 temps for a couple
   days. WBC's at 9
   - F/u UCx.
   - Continues on Cefepime.
   - Hold off on starting new ABx for now but will consider broadening if
   urine Cx grows out
   #. Persistent respiratory failure: IP will do a thoracentesis today.
   Patient changed to argatroban in preparation.
   Reportedly on vent for the last 6 mos.  Failure to wean could be both
   pneumonia as well as component of weakness, echo findings of RV
   dysfunction suggesting possible PE (unable to anticoagulate d/t
   persistent GI bleed) or pulmonary HTN, or persistent pleural effusions
   due to persistent ascites.
   - Had SBT yesterday but got tachy and sweaty after several hours so put
   back on PS 8/5
   - Had good RSBI this morning at 74
   - Will have SBT with Passy Muir valve this morning
   - ABG and VBG yesterday correlated well
   #. Loculated pleural effusions, R > L.
   - Unsure what to do with this result in face of overall goals of care.
   Will be addressed at family meeting today whether to be aggressive with
   this or not.
   - Will need f/u of final CT read
   - Consult IP about draining them today, and if we proceed, will need to
   have Argatroban stopped for procedure.
   #. Anemia: Has been slowly going down through admission and likely a
   consequence of phlebotomizing with q4 coag checks due to argatroban. No
   obvious source of bleeding and no hemodynamic changes. Had iron studies
   this admission showing low level iron and labs consistent with anemia
   of chronic disease. Also, had hematuria on most recent UA, but urine is
   clear and blood loss in urine unlikely to be hemodynamically relevant,
   but will need to watch and consider if continued drop in Hct.
   - As PTT is stabilizing, can space q4 coags to q6 and if continued
   stable PTT, likely just [**Hospital1 **]
   - Guiac all stools
   - Watch vitals signs
   - Will get pm Hct
   - Has triple lumen subclavian and L PIV
   - Type and screen this morning, transfuse for <21
   #. Hypernatremia: Hypovolemic hypernatremia on admission. Back up this
   morning to 147
   - Will increase free water via G tube to 300 q4hrs, but is a delicate
   balance between lowering pt
s hypernatremia and trying to get fluids
   off him with Lasix gtt
   - Measure pm Na
   #. Hypotension: The patient was hypotensive with poor urine output on
   admission, and thought to be distributive shock from urosepsis or PNA
   and started on ABx. Was started on pressors which have now been weaned.
   No longer an active issue
   - Watch hemodynamics through the day
   - Control tachycardia as above with BBlockade, as tolerated by bp
   - Cefipime for Pulm (pseudomonas) infectious sources
   - NS bolus to improve urine output prn
   #. Agitation / delirium: Have started seroquel and appears to be well
   tolerating
   -increase dose of seroquel today if needed.
   #. S/P CABG: Concerned about dehiscence of sternotomy wound.
   Elevated troponins likely rate/renal function related.
   - ASA
   - Statin has been d/c
   #. Depression:
   - Continue Paxil
   #. DM: ISS, no standing for now
   FEN: IVF as above, replete electrolytes, tube feeds (Nutren)
   Prophylaxis: Boots, PPI, Bowel reg, systemic Argatroban
   Access: L PICC. R art line, L PIV.
   Code:  DNR, already tracheally intubated.
   Communication: Patient, daughter [**Name (NI) **]: [**Telephone/Fax (1) 11465**] (home); cell:
   [**Telephone/Fax (1) 11466**]
   Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2121-11-28**] 05:30 AM
   PICC Line - [**2121-12-3**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2121-12-05 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2121-12-4**] 12:00 PM renal US
 THORACENTESIS - At [**2121-12-4**] 06:00 PM
 ARTERIAL LINE - STOP [**2121-12-5**] 06:00 AM
   - Renal u/s showing: normal kidneys
   - Thoracocentesis this pm: 900 cc's taken off, 2+ PMN's, Gstain
   negative
   - Called lab to see if Aztreonam sensitivity could be added on --> it's
   pending
   - Started Lactulose
   - 11a ABG: 7.41/50/97/33
   - 3pm lytes: Na slightly lower 146, K 4.1, Mg 2.4
   - Think about d/c'ing arterial line tomorrow
   - Still on Lasix gtt with UOP negative 3.7L through the day
   - Had 1hr SBT
   - Hepatology: probably autoimmune hepatitis, ------? accounts for high
   ascitic fluid protein. Recs: Tx SBP, do thoracocentesis, and would
   benefit from steroids but hold until SBP under control, would prefer
   liver Bx to assess level of ----? hepatitis.
   - Renal: Continue current management, good diuresis with Lasix gtt
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Cefipime - [**2121-12-4**] 12:00 PM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2121-12-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-5**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 81 (65 - 81) bpm
   BP: 114/61(73) {114/61(73) - 114/61(73)} mmHg
   RR: 26 (17 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                    523 mL
                                                                     87 mL
   PO:
             TF:
   IVF:
                                                                    463 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  4,240 mL
                                                                    680 mL
   Urine:
                                                                  2,890 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
                                                                    900 mL
   Balance:
                                                                 -3,717 mL
                                                                   -593 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 327 (305 - 440) mL
   PS : 8 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.43/48/91.[**Numeric Identifier 143**]/29/6
   Ve: 6.9 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   510 K/uL
   7.8 g/dL
   109 mg/dL
   2.1 mg/dL
   29 mEq/L
   4.1 mEq/L
   45 mg/dL
   108 mEq/L
   146 mEq/L
   25.0 %
   15.8 K/uL
        [image002.jpg]
                            [**2121-12-2**]  12:45 PM
                            [**2121-12-2**]  01:08 PM
                            [**2121-12-2**]  06:03 PM
                            [**2121-12-3**]  02:17 AM
                            [**2121-12-3**]  02:58 AM
                            [**2121-12-3**]  03:18 PM
                            [**2121-12-4**]  03:07 AM
                            [**2121-12-4**]  11:20 AM
                            [**2121-12-5**]  03:14 AM
                            [**2121-12-5**]  03:30 AM
   WBC
   9.1
   9.9
   15.8
   Hct
   23.0
   25.0
   23.8
   25.0
   Plt
   [**Telephone/Fax (3) 11651**]
   Cr
   2.4
   2.4
   2.2
   2.1
   TCO2
   32
   32
   28
   33
   33
   Glucose
   142
   107
   114
   109
   Other labs: PT / PTT / INR:17.2/30.5/1.5, CK / CKMB /
   Troponin-T:23/2/0.16, Amylase / Lipase:29/36, Differential-Neuts:78.0
   %, Lymph:11.1 %, Mono:5.5 %, Eos:5.0 %, Lactic Acid:0.8 mmol/L,
   Albumin:4.5 g/dL, LDH:207 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.4
   mg/dL
   Fluid analysis / Other labs: Pleural fluid: TPeff=3.8, LDHeff=97
   Imaging: [**12-4**] renal U/S: The kidneys are of normal size, and of normal
   echogenicity with no hydronephrosis.
   [**12-4**] CXR: decrease in right pleural effusion.
   Microbiology: [**12-4**] Pleural: stain w/ PMNs but no organisms.
   [**12-3**] blood cx: pending
   [**12-3**] tip cx: no growth
   Assessment and Plan
 BALANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ANXIETY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
 ASCITES
 DEPRESSION
 TACHYCARDIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, CHRONIC
   A 73 year old gentleman who presented with urosepsis and atrial
   tachycardia/AFib for g-tube evaluation.  His g-tube appears to be
   properly functioning.  Being treated for Pseudomonas pneumonia based on
   sputum cultures with cefepime. In his workup at this hospital it was
   learned that he has a cirrhotic liver, with positive [**Doctor First Name **], anti smooth
   muscle, and elevated IgG, and had significant ascites w/ 9L tapped and
   apparent SBP, and now s/p a second tap with improvement. Current active
   issues are the etiology/workup/management plan of this cirrhosis,
   managing the arrhythmia that he presented with (currently continues in
   sinus), managing his h/o HIT with anticoagulation needs (DVT prophy),
   and managing his trach/vent dependence w/ diuresis and thoracocentesis,
   Pseudomonas pneumonia Rx w/ cefepime, and a new leukocytosis.
   #. Leukocytosis: Today patient had abrupt rise in WBC of unclear
   source.  Not on steroids, w/o clear stressor and no clinically apparent
   infectious source.  We had been treating a pseudomonas pneumonia with
   cefepime.  He is not being treated for MRSA or VRE, and pseudomonas has
   high rates of developing resistance.
   - pan-culture and send for c.diff.
   - CXR for possible pneumonia
   #. Liver failure:  Patient
s SAAG>1.1, making differential once again
   cirrhosis vs right heart failure.  Amylase and lipase negative.  His
   altered mental status may in part be due to ammonia/decreased hepatic
   clearance, so we are giving lactulose.  His positive [**Doctor First Name **], anti smooth
   muscle, and elevated IgG are all suggestive of autoimmune hepatitis.
   - continue cefepime.  Consider changing to aztreonam because of AIN,
   but we will wait to check sensitivities before making that change.
   - given hepatohydrothorax, need to consider [**Last Name (un) 3024**] per hepatology.
   - we will consider a liver biopsy prior to discharge to better
   determine etiology of liver failure and ? autoimmune hepatitis.
   - f/u hepatology recs.
   #. Acute on chronic renal failure: Thought etiology ATN and AIN given
   elevated FENa off of diuretics.  Recommended bladder pressure and renal
   USG.  UA with persistent eosinophils, and eosinophilia on differential.
    Renal U/S normal.
   - if pseudomonas is aztreonam sensitive will switch from cefepime as
   that could be causing her AIN.
   - Continue diuresis but give free water for hypernatremia.
   - f/u renal recs.
   #. Persistent respiratory failure: Has improved with combination of
   diuresis and thoracocentesis and today is tolerating trach mask trial
   longer than previously.  If the effusion is recurrent, hepatology would
   like us to consider a TIPS procedure.
   - continue diuresis
   - restart argatroban for DVT prophylaxis.
   - Continue daily SBT/trach mask trials
   - ABG and VBG yesterday correlated well so no need to replace A-line.
   #. Hypernatremia: Hypovolemic hypernatremia on admission. Now back up,
   which may be contributing to his altered mental status.  We will be
   more aggressive in our correction, giving a 500cc D5W bolus.  We can
   also resume 300cc free water flushes Q4hrs with tube feeds.
   - Measure pm Na
   #. Arrhythmia: Per cards, pt was in Atach, Afib on admission, was given
   Adenosine and BBlocker. Now in sinus and dig loaded.  Dig level this
   morning is reassuring.  Will continue with current dosing.
   #. PNA: Pseudomonas cultured, is sensitive to Cefipime, but resistant
   to Cipro.  Will check sensitivities to Aztreonam for possible switch.
   - Today is day 8 of 15 day course of antibiotics.
   #. Anemia: Has a stable microcytic anemia. Had iron studies this
   admission showing low level iron and labs consistent with anemia of
   chronic disease.
   - Guiac all stools
   - Type and screen this morning, transfuse for <21
   #. Agitation / delirium: Have started seroquel and appears to be well
   tolerating
   - Continue PRN Seroquel 25mg
   #. S/P CABG: Concerned about dehiscence of sternotomy wound on CT.
   This finding was also seen on previous CT, when cardiac surgery was
   consulted.  They were not concerned.
   - continue ASA, stopped statin given elevated LFTs.
   #. Depression: - Continue Paxil
   #. DM: ISS, no standing for now
   FEN: Replete electrolytes, tube feeds (Nutren)
   Prophylaxis: Boots, PPI, Bowel reg, Argatroban
   Access: L PICC.  L PIV.
   Code:  DNR, already tracheally intubated.
   Communication: Patient, daughter [**Name (NI) **]: [**Telephone/Fax (1) 11465**] (home); cell:
   [**Telephone/Fax (1) 11466**]
   Disposition: ICU pending clinical improvement

2121-12-06 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypoxia and altered mental status
   24 Hour Events:
   - Did well on trach collar.  Actually able to use PMV to talk to
   daughter and with team.
   - recultured and CXR for new leukocytosis.
   - argatroban accidentally disconnected - discovered at 11:30 and
   restarted.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Cefipime - [**2121-12-5**] 12:00 PM
   Infusions:
   Argatroban - 0.22 mcg/Kg/min
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2121-12-5**] 08:00 AM
   Other medications:
   Flowsheet Data as of  [**2121-12-6**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.3
   HR: 84 (72 - 86) bpm
   BP: 129/63(78) {98/45(58) - 146/72(88)} mmHg
   RR: 20 (19 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,190 mL
                                                                    725 mL
   PO:
             TF:
                                                                    595 mL
                                                                    245 mL
   IVF:
                                                                  1,020 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                    670 mL
   Urine:
                                                                  3,150 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     40 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous):
   RR (Spontaneous): 0
   PEEP:
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Gen: patient sleeping, alert when awakened, but not oriented
   PERRL, EOMI
   Chest: CTAB
   Heart: NRRR no murmurs
   Abdomen: distended, BS present
   Ext: trace edema, DP present
   Labs / Radiology
   490 K/uL
   8.0 g/dL
   132 mg/dL
   2.0 mg/dL
   27 mEq/L
   3.7 mEq/L
   43 mg/dL
   105 mEq/L
   146 mEq/L
   27.5 %
   14.5 K/uL
        [image002.jpg]
                            [**2121-12-2**]  06:03 PM
                            [**2121-12-3**]  02:17 AM
                            [**2121-12-3**]  02:58 AM
                            [**2121-12-3**]  03:18 PM
                            [**2121-12-4**]  03:07 AM
                            [**2121-12-4**]  11:20 AM
                            [**2121-12-5**]  03:14 AM
                            [**2121-12-5**]  03:30 AM
                            [**2121-12-5**]  03:09 PM
                            [**2121-12-6**]  03:55 AM
   WBC
   9.1
   9.9
   15.8
   14.5
   Hct
   23.0
   25.0
   23.8
   25.0
   27.5
   Plt
   [**Telephone/Fax (3) 11672**]90
   Cr
   2.4
   2.2
   2.1
   2.0
   2.0
   TCO2
   32
   28
   33
   33
   Glucose
   107
   114
   109
   161
   132
   Other labs: PT / PTT / INR:18.5/69.5/1.7, CK / CKMB /
   Troponin-T:23/2/0.16, Amylase / Lipase:29/36, Differential-Neuts:81.5
   %, Lymph:9.2 %, Mono:4.7 %, Eos:4.4 %, Lactic Acid:0.8 mmol/L,
   Albumin:4.5 g/dL, LDH:153 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:3.4
   mg/dL
   Imaging:
   Renal U/S on [**12-3**]
   CONCLUSION: Limited examination. The kidneys are of normal size, and of
   normal echogenicity with no hydronephrosis.
   Microbiology:  GRAM STAIN (Final [**2121-11-28**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
   .
                                PSEUDOMONAS AERUGINOSA
                                |
   CEFEPIME--------------     4 S
   CEFTAZIDIME-----------   <=1 S
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------     2 S
   MEROPENEM-------------     4 S
   PIPERACILLIN/TAZO-----     8 S
   TOBRAMYCIN------------   <=1 S
   [**2121-11-28**]  URINE URINE CULTURE-FINAL {GRAM NEGATIVE ROD(S)}
   All other blood, sputum, urine cultures are NTD
   Assessment and Plan
   A 73 year old gentleman who presented with urosepsis and atrial
   tachycardia/AFib for g-tube evaluation.  His g-tube appears to be
   properly functioning.  Being treated for Pseudomonas pneumonia based on
   sputum cultures with cefepime. In his workup at this hospital it was
   learned that he has a cirrhotic liver, with positive [**Doctor First Name **], anti smooth
   muscle, and elevated IgG, and had significant ascites w/ 9L tapped and
   apparent SBP, and now s/p a second tap with improvement. Current active
   issues are the etiology/workup/management plan of this cirrhosis,
   managing the arrhythmia that he presented with (currently continues in
   sinus), managing his h/o HIT with anticoagulation needs (DVT prophy),
   and managing his trach/vent dependence w/ diuresis and thoracocentesis,
   Pseudomonas pneumonia Rx w/ cefepime, and a new leukocytosis.
    .
   #. Leukocytosis: Today patient had abrupt rise in WBC of unclear
   source.  Not on steroids, w/o clear stressor and no clinically apparent
   infectious source.  We had been treating a pseudomonas pneumonia with
   cefepime.  He is not being treated for MRSA or VRE, and pseudomonas has
   high rates of developing resistance. Sent for pan culture and all has
   been NTD. WBC count improving today.
   - CTM WBC and fevers
   - Continue cefipime, consider changing abio if not improving.  Also,
   consider changing if has [**Last Name (un) 270**] to aztreonam d/t AIN
   .
   #. Liver failure:  Patient
s SAAG>1.1, making differential once again
   cirrhosis vs right heart failure.  Amylase and lipase negative.  His
   altered mental status may in part be due to ammonia/decreased hepatic
   clearance, so we are giving lactulose.  His positive [**Doctor First Name **], anti smooth
   muscle, and elevated IgG are all suggestive of autoimmune hepatitis.
   - continue cefepime.  Consider changing to aztreonam because of AIN,
   but we will wait to check sensitivities before making that change.
   - given hepatohydrothorax, need to consider [**Last Name (un) 3024**] per hepatology.
   - liver biopsy prior to discharge to better determine etiology of liver
   failure and ? autoimmune hepatitis.
   - hepatology recommends neostigmine if remains distended
   - f/u hepatology recs.
   .
   #. Acute on chronic renal failure: Thought etiology ATN and AIN given
   elevated FENa off of diuretics.  Recommended bladder pressure and renal
   USG.  UA with persistent eosinophils, and eosinophilia on
   differential.  Renal U/S normal.
   - if pseudomonas is aztreonam sensitive will switch from cefepime as
   that could be causing her AIN.
   - Continue diuresis but give free water for hypernatremia.
   - f/u renal recs.
    .
   #. Persistent respiratory failure: Has improved with combination of
   diuresis and thoracocentesis and today is tolerating trach mask trial
   longer than previously.  If the effusion is recurrent, hepatology would
   like us to consider a TIPS procedure.   On trach mask for >24hours and
   tolerating well.
   - continue diuresis PRN
   - restarted argatroban for DVT prophylaxis.
   .
   #. Hypernatremia: Hypovolemic hypernatremia on admission. Now back up
   to 146, which may be contributing to his altered mental status.  We
   will be more aggressive in our correction, giving a 500cc D5W bolus.
   We can also resume 300cc free water flushes Q4hrs with tube feeds.
   - Give d5W to repair
   - Measure Na in aft.
   .
   #. Arrhythmia: Per cards, pt was in Atach, Afib on admission, was given
   Adenosine and BBlocker. Now in sinus and dig loaded.    Will continue
   with current dosing.
   .
   #. PNA: Pseudomonas cultured, is sensitive to Cefipime, but resistant
   to Cipro.  Will check sensitivities to Aztreonam for possible switch.
   - Today is day 9 of 15 day course of antibiotics.
   .
   #. Anemia: Has a stable microcytic anemia. Had iron studies this
   admission showing low level iron and labs consistent with anemia of
   chronic disease.  Hct improving.  Has known GI bleed
   - Continue to monitor Hct daily
   - Transfuse for <21
   .
   #. Agitation / delirium: Have started seroquel and appears to be well
   tolerating
   - Continue PRN Seroquel 25mg
   .
   #. S/P CABG: Concerned about dehiscence of sternotomy wound on CT.
   This finding was also seen on previous CT, when cardiac surgery was
   consulted.  They were not concerned.
   - continue ASA, stopped statin given elevated LFTs.
   .
   #. Depression: - Continue Paxil
   .
   #. DM: ISS, no standing for now
   .
   FEN: Replete electrolytes, tube feeds (Nutren)
   Prophylaxis: Boots, PPI, Bowel reg, Argatroban
   Access: L PICC.  L PIV.
   Code:  DNR,
   Communication: Patient, daughter [**Name (NI) **]: [**Telephone/Fax (1) 11465**] (home); cell:
   [**Telephone/Fax (1) 11466**]
   Disposition: ICU pending clinical improvement
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with her
   note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above.
    CC: resp failure
   73 yo man s/p CABG, AVR [**6-24**] with prolonged post-op resp failure,
   trach, PEG.
     * Hepatic cirrhosis, likely autoimmune.
     * Acute renal failure, AIN and ATN
     * Resp failure much improved, was on PMV and FM 50% overnight
   On exam obese, no distress. Lethargic. Arousable but not interactive
   (as he was described on yesterday
s notes). Did answer questions
denied
   pain. But unable to respond to ROS except said he slept well and denied
   respiratory difficulty.
   PERRL, EOMI.
   NC/AT.
   Lungs distant but clear.
   RRR no murmurs
   Abd obese, slightly distended but soft. G-tube in place.
   2+  edema LE bilaterally.
   No rashes.
   Moves all extremities.
   No visible joint inflammation or tenderness.
   Reviewed labs, imaging, meds.
   Labs sig for WBC 14.6, NA 146. Cr improved to 2.0.
   Plan
     * Leukocytosis: Continue empiric treatment for CDiff, SBP, pending
       data from [**Female First Name (un) 217**], paracentesis yesterday
     * Continue TM and PMV
would TM overnight and PMV during the day
     * Na: increase free water boluses
     * Cirrhosis: appreciate Hepatology input. Treating SBP
   Safe for transfer out of MICU.
   Other issues per resident Dr [**Last Name (STitle) 11683**]
s note.
   ------ Protected Section Addendum Entered By:[**Name (NI) 457**] [**Last Name (NamePattern1) **], MD
   on:[**2121-12-6**] 19:28 ------